US08309580B2
(3) cyclohexyl[2-ethyl-5-(tetrahydro-2H-pyran-4-yl)thiophen-3-yl]methanol
To a solution of 2-ethyl-5-(tetrahydro-2H-pyran-4-yl)thiophene-3-carbaldehyde (692 mg) synthesized above in tetrahydrofuran (10 mL) was added dropwise 1.0M cyclohexylmagnesium bromide-tetrahydrofuran solution (4.64 mL) at 0° C., and the mixture was stirred for 2 hr. Saturated aqueous ammonium chloride solution was added to quench the reaction, tetrahydrofuran was evaporated using evaporator, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=3:7, volume ratio) to give the title compound (737 mg, 77%) as a white solid.

reactant | 2-ethyl-5-(tetrahydro-2H-pyran-4-yl)thiophene-3-carbaldehyde | 692 mg | C(C)C=1SC(=CC1C=O)C1CCOCC1 | C12H16O2S
reactant | cyclohexylmagnesium bromide tetrahydrofuran | 1.0M, 4.64 mL | C1(CCCCC1)[Mg]Br.O1CCCC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | cyclohexyl[2-ethyl-5-(tetrahydro-2H-pyran-4-yl)thiophen-3-yl]methanol | 737 mg, 77% | C1(CCCCC1)C(O)C1=C(SC(=C1)C1CCOCC1)CC | C18H28O2S
